US07122543B2
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenylbenzoic acid
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenylbenzoate (84 mg, 0.1926 mmol) was dissolved in a mixed solution of a 1N aqueous solution of sodium hydroxide (5 ml) and 1,4-dioxane (5 ml) followed by stirring at room temperature for 16 hours. The reaction solution was diluted with water (20 ml), washed with ether, acidified with concentrated hydrochloric acid and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom to give the title compound (45 mg, 0.1800 mmol, 93%).

reactant | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenylbenzoate | 0.1926 mmol, 84 mg | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)C2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O6
solvent | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenylbenzoic acid | 0.1800 mmol, 45 mg, 93% | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)C2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C25H26O6
